datasets/10k_Mayr_OG.csv
SMILES Labelled
"[C-:10]#[N:61].[O-][N+:22]([C:21]1=[CH:20]N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)=[O:23]>>[O-][N+:22](=[C:21]1[CH:20]([C:10]#[N:61])N2N=N[N:35]=[C:34]2[CH:33]=[CH:32]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[O:33][C:22]([C:21](C)=[CH2:20])=[O:23].COC(=O)C12C3C4C5C1[W-3:11]4532(C#[O+])(C#[O+])(C#[O+])[H:10]>>CC[O:33][C:22](=[C:21](C)[CH2:20][H:10])[O-:23].COC(=O)C12C3C4C5C1[W-2:11]4532(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21,22;22,23=23"
"C1[C:63]2=[C:62]([CH:11]([H:10])[C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C1[C:63]2=[C:62]([CH+:11][C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1.[H:10][F:20] 10,11=10,20;20,21=21"
"CC[O:72]/[C:11](=[CH:10]/[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)[O-:12].O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC[O:72][C:11]([CH:10]([CH:20]([CH:21]=[CH:22][N:23]1C2=C(C=CC=C2)CC1C(=O)[O-])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:61]1=[CH:62][CH:63]=[C:64](C#N)[CH:83]=[CH:82]1)=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC12C3(C)C4(C)C5(C)C1(C)[W-3:11]2345(C#[O+])(C#[O+])(C#[O+])[H:10].C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28>>CC12C3(C)C4(C)C5(C)C1(C)[W-2:11]2345(C#[O+])(C#[O+])C#[O+].C[CH:20]([H:10])[C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28 10,11=10,20"
"C1=CC=C([S:61]([CH-:10][S:81](C2=CC=CC=C2)(=[O:82])=[O:92])(=[O:62])=[O:72])C=C1.CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]=[N:21]1>>CO[C:32]1=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]2[CH:20]([CH:10]([S:61](C2=CC=CC=C2)(=[O:62])=[O:72])[S:81](C2=CC=CC=C2)(=[O:82])=[O:92])[N-:21]1 10=20;20,21=21"
"CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.C[Si:63](C)(C)[O:12][C:11]1=[CH:10]CCCCC1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]2CCCCC[C:11]2=[O+:12][Si:63](C)(C)C)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1.Cl[C:64]1=[CH:63][CH:62]=[C:61]([NH2:10])[CH:72]=[CH:73]1>>Cl[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C:20]([NH2+:10][C:61]2=[CH:62][CH:63]=[C:64](Cl)[CH:73]=[CH:72]2)([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1 10=20
"C[C:22]([CH:21]=[CH2:20])=[O:23].[S-:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1>>C[C:22](=[CH:21][CH2:20][S:10][C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:86])[CH:73]=[CH:72]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"CC[O:50][C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23].CC[O:62]/[C:11](=[CH:10]/[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[O-:12]>>CC[O:50][C:22](=[CH:21][CH:20]([CH:10]([C:11](=[O:12])[O:62]CC)[N+:71]1=[CH:72][CH:73]=[CH:74][CH:75]=[CH:76]1)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].FC(F)(F)[C:62]1=[C:61]([O-:10])[CH:72]=[CH:73][CH:64]=[CH:63]1>>CC[O:34][C:32]([C:21]([CH:20]([O:10][C:61]1=[C:62](C(F)(F)F)[CH:63]=[CH:64][CH:73]=[CH:72]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
C[NH:10][OH:61].Cl[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[NH+:10]([C:20]([C:31]1=[CH:32][C:33](Cl)=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](Cl)=[CH:54][CH:55]=[CH:56]1)[OH:61] 10=20
"CC[O:33][C:22](/[CH:21]=[CH:20]\[C:41](=[O:42])[O:52]CC)=[O:23].CC[O:92][C:61]([CH-:10]/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62]>>CC[O:33][C:22](=[CH:21][CH:20]([CH:10]([C:61](=[O:62])[O:92]CC)/[N:71]=[CH:72]/[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)[C:41](=[O:42])[O:52]CC)[O-:23] 10=20;20,21=21,22;22,23=23"
C1=CC=C([N:62]2[CH:61]=[N:10][CH:64]=[CH:63]2)C=C1.CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH+:20][C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2>>CN1CC[C:33]2=[C:34]1[CH:35]=[CH:36][C:31]([CH:20]([N+:10]1=[CH:61][N:62](C3=CC=CC=C3)[CH:63]=[CH:64]1)[C:41]1=[CH:42][C:43]3=[C:44](N(C)CC3)[CH:45]=[CH:46]1)=[CH:32]2 10=20
"CC(C)(C)[P:10](C1=CC=CC=C1)C(C)(C)C.COC1=CC=C([N+]2=C([C:22](/[CH:21]=[CH:20]/[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)=[O:23])N(C)C=C2)C=C1>>COC1=CC=C([N+]2=C([C:22](=[CH:21][CH:20]([P+:10](C3=CC=CC=C3)(C(C)(C)C)C(C)(C)C)[C:31]3=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]3)[O-:23])N(C)C=C2)C=C1 10=20;20,21=21,22;22,23=23"
